US09260427B2
To a stirring solution (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(2-(4-(heptyloxy)benzoyl)hydrazinecarbonyl)phenyl)propanoate INT-3 (127 mg, 0.21 mmol) and TEA (0.09 mL, 0.62 mmol) in DCM (4 mL) was added 2-chloro-1,3-dimethylimidazolidinium chloride (41.8 mg, 0.25 mmol). The reaction mixture was stirred at room temperature for 18 h then warmed to 40° C. for 1 h. The reaction mixture was cooled to room temperature, diluted with NaHCO3 (15 mL), shaken, split through a hydrophobic frit and evaporated to afford 120 mg (95%) of (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)-1,3,4-oxadiazol-2-yl)phenyl)propanoate as a white solid. LCMS-ESI (m/z) calculated for C36H43N3O5: 597.8. found 598.0 [M+H]+, tR=3.25 min. (Method 4).

reactant | (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(2-(4-(heptyloxy)benzoyl)hydrazinecarbonyl)phenyl)propanoate | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)C(=O)NNC(C2=CC=C(C=C2)OCCCCCCC)=O)C=C1 | C36H45N3O6
reactant | 2-chloro-1,3-dimethylimidazolidinium chloride | 0.25 mmol, 41.8 mg | [Cl-].ClC1[NH+](CCN1C)C
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
product | (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)-1,3,4-oxadiazol-2-yl)phenyl)propanoate | 120 mg, 95% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)C=2OC(=NN2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C36H43N3O5
